US06555584B1
N-[2-[3-(4-t-Butylbenzyloxy)benzamido]benzenesulfonyl]pivalamide
In a stream of nitrogen and at 0° C., 0.09 ml (0.75 mmol) of pivaloyl chloride was added to an anhydrous tetrahydrofuran (10 ml) solution containing 300 mg (0.68 mmol) of 3-(4-t-butylbenzyloxy)-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 2 and 167 mg (1.36 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 284 mg (yield: 80.0%) of the title compound.

reactant | pivaloyl chloride | 0.75 mmol, 0.09 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 3-(4-t-butylbenzyloxy)-N-(2-sulfamoylphenyl)benzamide | 0.68 mmol, 300 mg | C(C)(C)(C)C1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(N)(=O)=O)C=CC2)C=C1 | C24H26N2O4S
catalyst | 4-dimethylaminopyridine | 1.36 mmol, 167 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-[3-(4-t-Butylbenzyloxy)benzamido]benzenesulfonyl]pivalamide | 284 mg, yield: 80.0% | C(C)(C)(C)C1=CC=C(COC=2C=C(C(=O)NC3=C(C=CC=C3)S(=O)(=O)NC(C(C)(C)C)=O)C=CC2)C=C1 | C29H34N2O5S
